US08426437B2
2 mL (4 mmol) of a 2M solution of hydrochloric acid in diethyl ether is added to a solution of 50 mg (0.1 mmol) of 8-{[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-methyl-sulfamoyl}-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate dissolved in 5 mL of anhydrous tetrahydrofuran. The solution is stirred at room temperature for 3 days then the solid that forms is filtered, and triturated in diisopropyl ether to give 26 mg (60%) of 8-[methyl-(2-methylamino-ethyl)-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate hydrochloride in the form of a white solid.

reactant | hydrochloric acid | Cl | ClH
reactant | 8-{[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-methyl-sulfamoyl}-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate | 0.1 mmol, 50 mg | C(C)(C)(C)OC(=O)N(CCN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C)C.C(CC)C(=O)[O-]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 8-[methyl-(2-methylamino-ethyl)-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate hydrochloride | 26 mg, 60% | CN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)CCNC.Cl.C(CC)C(=O)O | InChI=1S/C15H18N4O3S.C4H8O2.ClH/c1-16-7-8-19(2)23(21,22)10-3-4-13-12(9-10)11-5-6-17-14(11)15(20)18-13;1-2-3-4(5)6;/h3-6,9,16-17H,7-8H2,1-2H3,(H,18,20);2-3H2,1H3,(H,5,6);1H
